US03944560
A mixture of 2-hydroxyphenoxy acetic acid (16.8 g. 0.1 mole) and 80 ml. of 5N aqueous sodium hydroxide (0.4 mole) is stirred until solution is effected, then the solution treated with 2-bromo-2-(2-pyridyl)-acetic acid (21.6 g. 0.1 mole), and refluxed for 20 hours. The cooled solution is taken to neutrality and the diacid crystallized from benzene to give 2-(2-pyridyl)-2-(carboxymethoxyphenoxy)-acetic acid.

reactant | 2-hydroxyphenoxy acetic acid | 0.1 mole, 16.8 g | OC1=C(OCC(=O)O)C=CC=C1 | C8H8O4
reactant | sodium hydroxide | 0.4 mole, 5N | [OH-].[Na+]
reactant | 2-bromo-2-(2-pyridyl)-acetic acid | 0.1 mole, 21.6 g | BrC(C(=O)O)C1=NC=CC=C1 | C7H6BrNO2
product | 2-(2-pyridyl)-2-(carboxymethoxyphenoxy)-acetic acid | N1=C(C=CC=C1)C(C(=O)O)OC1=C(C=CC=C1)OCC(=O)O | C15H13NO6
